US05635527
(2) Methyl 3-[4-[(5-amidino-2-benzofuranyl)carbonylamino]phenyl]propionate (compound (35))
In the same manner as in Example 1 (2), 5-cyano-2-benzofurancarboxylic acid (200 mg, 1.07 mmol) and methyl 3-(4-aminophenyl)propionate (211 mg, 1.18 mmol) were condensed to quantitatively give 371 mg of methyl 3-[4-[(5-cyano-2-benzofuranyl)carbonylamino]phenyl]propionate as a yellow solid.

reactant | 5-cyano-2-benzofurancarboxylic acid | 1.07 mmol, 200 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | methyl 3-(4-aminophenyl)propionate | 1.18 mmol, 211 mg | NC1=CC=C(C=C1)CCC(=O)OC | C10H13NO2
reactant | methyl 3-[4-[(5-cyano-2-benzofuranyl)carbonylamino]phenyl]propionate | 371 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)CCC(=O)OC)C1 | C20H16N2O4
product | Methyl 3-[4-[(5-amidino-2-benzofuranyl)carbonylamino]phenyl]propionate | C(N)(=N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)CCC(=O)OC)C1 | C20H19N3O4
